US05736568
A solution of N-benzyl-N-methylethanolamine (145 g) in dry DMF (500 ml) was added dropwise to a stirred suspension of sodium hydride (35.15 g of a 60% dispersion in mineral oil) in dry DMF (1000 ml) over 20 minutes under nitrogen. The mixture was heated on a steam bath for 30 minutes to give a solution. The solution was cooled to ambient temperature and a solution of 2-chloro-6-fluorobenzonitrile (136.7 g) in dry DMF (300 ml) was added over 30 minutes with stirring. The mixture was heated on a steam bath for 3 hours with stirring and distilled at approximately 13 mbar to remove 1 liter of DMF. The residue was cooled to ambient temperature and poured into ice (2 l), basified with 5M sodium hydroxide solution to pH 14 and extracted with dichloromethane to give an oil. This oil was dissolved in ether (2 l) and washed with water (4×200 ml). The ether solution was extracted with 2M hydrochloric acid (500 ml) which gave three layers in the separating funnel. The bottom two layers were run off and the top ether layer was extracted with 2M hydrochloric acid (2×250 ml). The combined acidic layers were basified with concentrated sodium hydroxide solution with cooling and then extracted with dichloromethane to give 2-[2-(N-benzyl-N-methylamino)ethoxy]-6-chlorobenzonitrile as an oil.

reactant | N-benzyl-N-methylethanolamine | 145 g | C(C1=CC=CC=C1)N(CCO)C | C10H15NO
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-6-fluorobenzonitrile | 136.7 g | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1000 ml | CN(C)C=O | C3H7NO
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | ether | 2 l | CCOCC | C4H10O
product | 2-[2-(N-benzyl-N-methylamino)ethoxy]-6-chlorobenzonitrile | C(C1=CC=CC=C1)N(C)CCOC1=C(C#N)C(=CC=C1)Cl | C17H17ClN2O
